US07012075B2
To tert-butyl 4-(4′-{[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-methyl}[1,1′-biphenyl]-4-yl)-1-piperazinecarboxylate (85 mg, 0.164 mmol) in dry THF (5 mL) under dry nitrogen was gradually added a total of 8 equivalents of MeSO3H (total of 85 μL, 1.31 mmol) over a period of 2 days in portions of 1–2 equivalents at a time. Aqueous sat. NaHCO3 was added carefully and the product extracted with EtOAc (3×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (NH4OH/MeOH/CH2Cl2, 1/9/90) to afford (2S)-N-(cyanomethyl)-4-methyl-2-({[4′-(1-piperazinyl)[1,1′-biphenyl]-4-yl]methyl}amino)pentanamide. MS (+APCI): 420.3 [M+1]+.

reactant | tert-butyl 4-(4′-{[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-methyl}[1,1′-biphenyl]-4-yl)-1-piperazinecarboxylate | 0.164 mmol, 85 mg | C(#N)CNC(=O)[C@H](CC(C)C)NCC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C30H41N5O3
reactant | MeSO3H | 1.31 mmol, 85 μL, 8 equivalents | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S)-N-(cyanomethyl)-4-methyl-2-({[4′-(1-piperazinyl)[1,1′-biphenyl]-4-yl]methyl}amino)pentanamide | C(#N)CNC([C@H](CC(C)C)NCC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)=O | C25H33N5O
